US05064861
STEP A: N-(tert-butoxycarbonyl)-(3-amino propyl)-1,3-propanediamine
A solution of 33 g of tert-butyl dicarbonate in 200 ml of methylene chloride was added at 5° C. to a solution of 39.3 g of 3,3'-diaminodipropylamine in 300 ml of methylene chloride and after stirringf or 16 hours at 20° C., water was added, followed by decanting and evaporation to dryness. The residue was chromatographed on silica (eluant; methanol-ammonia (98-2)) to obtain 15.5 g of the expected product which was used as is for the next step.

reactant | tert-butyl dicarbonate | 33 g | C(=O)(OC(C)(C)C)OC(=O)[O-]
reactant | 3,3'-diaminodipropylamine | 39.3 g | C(CN)CNCCCN | C6H17N3
reactant | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-(tert-butoxycarbonyl)-(3-amino propyl)-1,3-propanediamine | 15.5 g | C(C)(C)(C)OC(=O)NC(CCN)CCCN | C11H25N3O2
